US05236952
2.0 g of ethyl (3,4-dihydroxy-5-nitrobenzoyl)acetate are suspended in 50 ml of ethanol. After treatment with 0.4 g of hydrazine hydrate the mixture is held at the reflux temperature for 16 hours. After distillation of the solvent, the residue is held at the boiling temperature for 5 minutes with 50 ml of ethyl acetate. The separated precipitate is filtered under suction and the filtrate is concentrated to 10 ml. The crystals, which separate in the cold, are filtered under suction. There is obtained 5-(5-hydroxypyrazol-3-yl)-3-nitropyrocatechol in form of orange crystals of m.p. 228° (dec.).

reactant | ethyl (3,4-dihydroxy-5-nitrobenzoyl)acetate | 2.0 g | OC=1C=C(C(=O)CC(=O)OCC)C=C(C1O)[N+](=O)[O-] | C11H11NO7
reactant | hydrazine hydrate | 0.4 g | O.NN
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-(5-hydroxypyrazol-3-yl)-3-nitropyrocatechol | OC1=CC(=NN1)C1=CC(=C(C(O)=C1)O)[N+](=O)[O-] | C9H7N3O5
